US06211199B1
25.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)piperidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)piperidine (1.14 mmol) and (1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.56 g, 1.7 mmol), and N,N-diisopropylethylamine (0.50 g) in acetonitrile (12 mL). Heat to reflux. After 2 days, partition the residue between ethyl acetate and water. Separate the organic layer and extract twice with saturated aqueous sodium bicarbonate solution and brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 30/70/0.33 methanol/ethyl acetate/concentrated aqueous ammonia to give the title compound: Rf=0.50 (silica gel, 30% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)piperidine | 1.14 mmol | COC=1C=C(C(=O)N2CC(CCC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C24H29Cl2NO7S
reactant | (1-(4-fluorobenzyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.7 mmol, 0.56 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)NC3CCNCC3)C=C1 | C19H21FN4
reactant | N,N-diisopropylethylamine | 0.50 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(4-fluorobenzyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-dichlorophenyl)piperidine | COC=1C=C(C(=O)N2CC(CCC2)(C2=CC(=C(C=C2)Cl)Cl)CCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OC)OC | C42H46Cl2FN5O4
